* source OPA365
X_U1         N01370 N01210 VCC VEE VOUT OPA365
V_V1         VCC 0 5Vdc
V_V2         VEE 0 0Vdc
V_V3         VINP 0  AC 1
+SIN 0 0.1 1e6 0 0 0
R_Rload         VREF VOUT  1k TC=0,0 
V_V4         VREF 0 2.5Vdc
R_R2         0 N01210  1k TC=0,0 
R_R1         N01210 VOUT  10k TC=0,0 
R_R3         VINP N01370  1k TC=0,0 
R_R4         N01370 VREF  10k TC=0,0 
